US07319104B2
A solution of 3-methyl-p-anisaldehyde (23.13 g, 154 mmol) and nitromethane (9.40 g, 154 mmol) in MeOH (260 ml) was cooled in an ice bath and treated dropwise with NaOH (162 ml of 1N solution; 162 mmol). The reaction mixture was stirred at rt for 1 hr. Water (50 ml) was then added and the mixture poured into 1N HCl (300 ml). The precipitate was collected and purified by flash chromatography on silica gel eluting with dichloromethane to provide methyl 2-methyl-4-[(E)-2-nitroethenyl]phenyl ether as a yellow solid (14.61 g; 49% yield).

reactant | 3-methyl-p-anisaldehyde | 154 mmol, 23.13 g | CC=1C=C(C=O)C=CC1OC | C9H10O2
reactant | nitromethane | 154 mmol, 9.40 g | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 162 mmol, 1N, 162 ml | [OH-].[Na+]
reactant | HCl | 1N, 300 ml | Cl | ClH
solvent | MeOH | 260 ml | CO | CH4O
solvent | Water | 50 ml | O | H2O
product | methyl 2-methyl-4-[(E)-2-nitroethenyl]phenyl ether | 49% yield | CC1=C(C=CC(=C1)\C=C\[N+](=O)[O-])OC | C10H11NO3
